US07138423B2
Step C: Trans-tert-butyl-3-(4-(ethoxycarbonyl)pyrrolidin-3-yl)-1H-indole-1-carboxylate
To a solution of trans-tert-butyl-3-(1-benzyl-4-(ethoxycarbonyl)pyrrolidin-3-yl)-1H-indole-1-carboxylate (8.57 mmol) in dichloromethane (16 mL) was added 1-chloroethyl chloroformate (1.11 mL) slowly at 0° C. After addition, the mixture was warmed up to room temperature and stirred for 1 hr then concentrated under vacuum. Ethyl alcohol was added and the mixture was stirred at room temperature for 1 hr. The mixture was concentrated under vacuum to give the crude product as a white solid which was used for next step without further purification.

reactant | trans-tert-butyl-3-(1-benzyl-4-(ethoxycarbonyl)pyrrolidin-3-yl)-1H-indole-1-carboxylate | 8.57 mmol | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)[C@@H]1CN(C[C@H]1C(=O)OCC)CC1=CC=CC=C1 | C27H32N2O4
reactant | 1-chloroethyl chloroformate | 1.11 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | dichloromethane | 16 mL | ClCCl | CH2Cl2
product | Trans-tert-butyl-3-(4-(ethoxycarbonyl)pyrrolidin-3-yl)-1H-indole-1-carboxylate | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)[C@@H]1CNC[C@H]1C(=O)OCC | C20H26N2O4
